US08383827B2
Step 3: Synthesis of 6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-naphthonitrile
A mixture of 6-bromo-2-naphthonitrile (653 mg, 2.81 mmol), bis(pinacolato)diboron (857 mg, 3.38 mmol), potassium acetate (552 mg, 5.63 mmol) and PdCl2(dppf).CH2Cl2 adduct (115 mg, 0.141 mmol) in 1,4-dioxane (9.379 mL) was heated to 100° C. for 1 h. The mixture was concentrated, and the residue was purified via Biotage (0-10% EtOAc/heptane; SNAP50 column) giving the title compound (466 mg, 59%) as beige solid. 1H NMR (400 MHz, chloroform-d) δ ppm 1.33 (s, 12H) 7.53 (dd, J=8.53, 1.58 Hz, 1H) 7.80 (d, J=8.27 Hz, 1H) 7.83-7.92 (m, 2H) 8.15 (s, 1H) 8.32 (s, 1H).

reactant | 6-bromo-2-naphthonitrile | 2.81 mmol, 653 mg | BrC=1C=C2C=CC(=CC2=CC1)C#N | C11H6BrN
reactant | bis(pinacolato)diboron | 3.38 mmol, 857 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 5.63 mmol, 552 mg | C(C)(=O)[O-].[K+]
reactant | CH2Cl2 | 0.141 mmol, 115 mg | C(Cl)Cl | CH2Cl2
solvent | 1,4-dioxane | 9.379 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-naphthonitrile | 466 mg, 59% | CC1(OB(OC1(C)C)C=1C=C2C=CC(=CC2=CC1)C#N)C | C17H18BNO2
